US09120749B2
{4-[trans-4-Aminocyclohexylamino]-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-3-yl}(cyclopropyl)methanone dihydrochloride
A solution of {4-[trans-4-aminocyclohexylamino]-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-3-yl}(cyclopropyl)methanone (9.1 mg, 0.019 mmol) in methanol (10 mL) was treated with 1 N HCl (2 mL) and the mixture was concentrated and dried to obtain the desired salt (7.7 mg, 77%) as an off-white solid: 1H NMR (500 MHz, CD3OD) δ 9.38 (s, 1H), 8.46 (s, 1H), 8.28 (d, J=8.5 Hz, 1H), 7.99 (d, J=8.5 Hz, 1H), 7.75 (bs, 2H), 2.86 (bs, 1H), 2.54-2.48 (m, 2H), 2.25-2.19 (m, 2H), 1.87-1.79 (m, 2H), 1.72-1.50 (m, 2H), 1.40-1.18 (m, 4H); ESI MS m/z 470 [C25H25Cl2N3O2+H]+; HPLC 95.0% (AUC), tR=10.79 min.

reactant | {4-[trans-4-aminocyclohexylamino]-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-3-yl}(cyclopropyl)methanone | 0.019 mmol, 9.1 mg | N[C@@H]1CC[C@H](CC1)NC1=C(C=NC2=CC=C(C=C12)C1=CC(=C(C(=C1)Cl)O)Cl)C(=O)C1CC1 | C25H25Cl2N3O2
reactant | HCl | 1 N, 2 mL | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
product | {4-[trans-4-Aminocyclohexylamino]-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-3-yl}(cyclopropyl)methanone dihydrochloride | 7.7 mg, 77% | Cl.Cl.N[C@@H]1CC[C@H](CC1)NC1=C(C=NC2=CC=C(C=C12)C1=CC(=C(C(=C1)Cl)O)Cl)C(=O)C1CC1 | InChI=1S/C25H25Cl2N3O2.2ClH/c26-20-10-15(11-21(27)25(20)32)14-3-8-22-18(9-14)23(30-17-6-4-16(28)5-7-17)19(12-29-22)24(31)13-1-2-13;;/h3,8-13,16-17,32H,1-2,4-7,28H2,(H,29,30);2*1H/t16-,17-;;
